US06982335B2
Next, 2-(2,4-dimethoxyphenyl)-4,5-dihydro-thiazole-4-(R)-carboxylic acid is reacted with isopropanol; DCC; and 4-(dimethylamino)pyridine (DMAP) in tetrahydrofuran (THF) at room temperature to form isopropyl-2-(2,4-dimethoxyphenyl)-4,5-dihydro-thiazole-4-(R)-carboxylate.

reactant | 2-(2,4-dimethoxyphenyl)-4,5-dihydro-thiazole-4-(R)-carboxylic acid | COC1=C(C=CC(=C1)OC)C=1SC[C@H](N1)C(=O)O | C12H13NO4S
reactant | isopropanol | C(C)(C)O | C3H8O
reactant | DCC | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | 4-(dimethylamino)pyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | isopropyl-2-(2,4-dimethoxyphenyl)-4,5-dihydro-thiazole-4-(R)-carboxylate | C(C)(C)OC(=O)[C@H]1N=C(SC1)C1=C(C=C(C=C1)OC)OC | C15H19NO4S
